US04810713
1-[4-[5-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]pentoxy]-3-methoxyphenyl]ethanone
Following the procedurre of Example 1 and utilizing potassium iodide catalyst, a mixture of 3.0 g (0.01 mole) of α,α-bis(p-fluorophenyl)-4-piperidinemethanol, 2.7 g (0.01 mole) of 1-[4-(5-chloropentoxy)-3-methoxyphenyl]ethanone and sodium carbonate in butanol, the title compound was prepared in 65% yield as white solid after recrystallization from isopropyl alcohol, m.p. 117.5°-118.5° C.

reactant | α,α-bis(p-fluorophenyl)-4-piperidinemethanol | 0.01 mole, 3.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 1-[4-(5-chloropentoxy)-3-methoxyphenyl]ethanone | 0.01 mole, 2.7 g | ClCCCCCOC1=C(C=C(C=C1)C(C)=O)OC | C14H19ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | potassium iodide | [I-].[K+]
solvent | butanol | C(CCC)O | C4H10O
product | 1-[4-[5-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]pentoxy]-3-methoxyphenyl]ethanone | 65% yield | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCCCOC1=C(C=C(C=C1)C(C)=O)OC)(O)C1=CC=C(C=C1)F | C32H37F2NO4
